US07691881B2
4(2) 5-Bromo-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid
The title compound was prepared according to the procedure of Example 1(7), but using ethyl 5-bromo-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate as prepared in 4(1) instead of ethyl 5-chloro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate.

reactant | ethyl 5-bromo-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | BrC=1C=C(C(N(C1C)C(C)C)=O)C(=O)OCC | C12H16BrNO3
reactant | ethyl 5-chloro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | ClC=1C=C(C(N(C1C)C(C)C)=O)C(=O)OCC | C12H16ClNO3
product | 5-Bromo-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | BrC=1C=C(C(N(C1C)C(C)C)=O)C(=O)O | C10H12BrNO3
